US06855708B2
A solution of N-acetyl-3-azabicyclo[3.3.0]octane-2,2-dicarboxylic acid, diethyl ester (1.9 g, 6.3 mmol) in aqueous HBr (48%, 10 mL) and HOAc (2 mL) was heated at 120° C. under nitrogen for 18 h. The reaction mixture was cooled, concentrated in vacuo, and the residue was azeotroped with acetonitrile (2×) and Et2O/toluene (1×) to yield 3-azabicyclo[3.3.0]octane-2-carboxylic acid, hydrobromide (1.4 g, 93%).

reactant | N-acetyl-3-azabicyclo[3.3.0]octane-2,2-dicarboxylic acid, diethyl ester | 6.3 mmol, 1.9 g | C(C)(=O)N1C(C2CCCC2C1)(C(=O)OCC)C(=O)OCC | C15H23NO5
reactant | HBr | 10 mL | Br | BrH
solvent | HOAc | 2 mL | CC(=O)O | C2H4O2
product | 3-azabicyclo[3.3.0]octane-2-carboxylic acid, hydrobromide | 1.4 g, 93% | Br.C12C(NCC2CCC1)C(=O)O | InChI=1S/C8H13NO2.BrH/c10-8(11)7-6-3-1-2-5(6)4-9-7;/h5-7,9H,1-4H2,(H,10,11);1H
